US06911450B1
Metal sodium (23.8 g, 1.034 mol) was reacted with anhydrous ethanol (500 ml). To the clear obtained solution, was added thiourea (54.35 g, 714 mmol) and ethyl 3-methyl-2(3,5-dimethylphenylacetyl)butanoate (13.14 g, 47.6 mol). The reaction medium was maintained under reflux for 6 h, and then was concentrated in vacuo at 40.50° C. To the obtained residue was added concentrated hydrochloric acid (100 ml) and then the solution was brought to pH 4 with acetic acid. The obtained 6-dimethylbenzyl-5-isopropyl-2-thiouracil was dissolved in an aqueous 10% chloroacetic acid solution (200 ml) and the solution was maintained under reflux for 24 h and then cooled to ambient temperature and the obtained precipitates were separated by filtration and washed with cold ethanol and then with ether, and then dried in vacuo at 40° C. to give 6-(3,5-dimethylbenzyl)-5-isopropyluracil (7 g, 54%). Melting point: 213-214° C.

reactant | Metal | 1.034 mol, 23.8 g | N[C@@H](CCSC)C=O | C5H11NOS
reactant | thiourea | 714 mmol, 54.35 g | NC(=S)N | CH4N2S
reactant | ethyl 3-methyl-2(3,5-dimethylphenylacetyl)butanoate | 47.6 mol, 13.14 g | CC(C(C(=O)OCC)C(CC1=CC(=CC(=C1)C)C)=O)C | C17H24O3
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 6-(3,5-dimethylbenzyl)-5-isopropyluracil | 7 g, 54% | CC=1C=C(CC2=C(C(NC(N2)=O)=O)C(C)C)C=C(C1)C | C16H20N2O2
